US07501425B1
3-(3,5-Dimethoxy-phenyl)-7-{2-[(pyridin-4-ylmethyl)-amino]-ethylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
Using the general procedure above, 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.1423 g (0.941 mmol) of N-(4-picoly)ethylenediamine were reacted. The residue was chromatographed eluting with ethyl acetate/ethanol/triethylamine (9:2:1 v/v/v) then ethyl acetate/ethanol/triethylamine (9:3:2 v/v/v) to give 0.0162 g (13%) of the title compound: HPLC=92% pure.

reactant | 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(NC2=NC(=NC=C2C1)S(=O)C)=O | C15H16N4O4S
reactant | N-(4-picoly)ethylenediamine | 0.941 mmol, 0.1423 g | N1=CC=C(C=C1)CNCCN | C8H13N3
product | 3-(3,5-Dimethoxy-phenyl)-7-{2-[(pyridin-4-ylmethyl)-amino]-ethylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.0162 g, 13% | COC=1C=C(C=C(C1)OC)N1C(NC2=NC(=NC=C2C1)NCCNCC1=CC=NC=C1)=O | C22H25N7O3
